US08022206B2
[4-{6-Amino-7-[(1R)-1-(2,6-dichloro-3-fluorophenyl)ethoxy]furo[3,2-c]pyridin-3-yl}-3,6-dihydropyridin-1(2H)-yl][(2S)-2-methylpyrrolidin-2-yl]methanone
A mixture of 7-[(R)-1-(2,6-Dichloro-3-fluorophenyl)-ethoxy]-3-(1,2,3,6-tetrahydropyridin-4-yl)furo[3,2-c]pyridin-6-ylamine (150 mg, 0.36 mmol), (S)-2-Methylpyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester (98 mg, 0.43 mmol), TBTU (171 mg, 0.533 mmol), DIPEA (0.30 mL, 2.0 mmol) and DMF (10 mL) was stirred at 50° C. for 3 h. Reaction mixture was concentrated in vacuo, and the residue was taken up with DCM, washed with H2O, dried over sodium sulfate, filtered, and concentrated in vacuo. Purification of the residue by flash column chromatography using 1→4% NH3 in MeOH in DCM afforded an oil that was dissolved in 1,4-dioxane (2.0 mL). 4 M HCl in 1,4-Dioxane (0.9 mL) was added to the solution and the reaction mixture was stirred at 40° C. for 1 h and at 60° C. for 3 h. Purification of the crude material by prep TLC (eluting with NH3/MeOH/DCM) afforded the title compound as a light yellow solid. The compound was dissolved in DCM and 2 M of HCl in Et2O (4 mL) was added to the reaction mixture. The reaction mixture was concentrated in vacuo to afford the title compound as HCl salt. 1H NMR (400 MHz, CD3OD): δ=1.46 (s, 3H), 1.66-1.84 (m, 2H), 1.88 (d, J=6.8 Hz, 3H), 2.20 (br. s., 2H), 2.55 (br. s., 2H), 2.73-3.00 (m, 2H), 3.68-3.98 (m, 2H), 4.30 (br. s., 2H), 6.30 (br. s., 1H), 6.49 (q, J=6.7 Hz, 1H), 7.22 (t, J=8.7 Hz, 1H), 7.40 (dd, J=8.8, 4.8 Hz, 1H), 7.65 (s, 1H), 8.20 (s, 1H). MS (ES+): m/z 533.08/535.09 (100/69) [MH+]. HPLC: tR=2.45 min.

reactant | 7-[(R)-1-(2,6-Dichloro-3-fluorophenyl)-ethoxy]-3-(1,2,3,6-tetrahydropyridin-4-yl)furo[3,2-c]pyridin-6-ylamine | 0.36 mmol, 150 mg | ClC1=C(C(=CC=C1F)Cl)[C@@H](C)OC=1C2=C(C=NC1N)C(=CO2)C=2CCNCC2 | C20H18Cl2FN3O2
reactant | (S)-2-Methylpyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester | 0.43 mmol, 98 mg | C(C)(C)(C)OC(=O)N1[C@@](CCC1)(C(=O)O)C | C11H19NO4
reactant | TBTU | 0.533 mmol, 171 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | DIPEA | 2.0 mmol, 0.30 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HCl | 4 M | Cl | ClH
solvent | 1,4-dioxane | 2.0 mL | O1CCOCC1 | C4H8O2
solvent | 1,4-Dioxane | 0.9 mL | O1CCOCC1 | C4H8O2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | [4-{6-Amino-7-[(1R)-1-(2,6-dichloro-3-fluorophenyl)ethoxy]furo[3,2-c]pyridin-3-yl}-3,6-dihydropyridin-1(2H)-yl][(2S)-2-methylpyrrolidin-2-yl]methanone | NC1=C(C2=C(C=N1)C(=CO2)C=2CCN(CC2)C(=O)[C@]2(NCCC2)C)O[C@H](C)C2=C(C(=CC=C2Cl)F)Cl | C26H27Cl2FN4O3
